US07001899B2
Preparation of isoquinoline-1-carboxylic acid {6-(hydroxymethyl)-1-[(2-ethoxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-methyl]-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl}-amide (21):
A catalytic amount of Pd(Ph3P)4 is added to a solution of (2-Ethoxy-5-oxo-furan-3-yl)-carbamic acid allyl ester (0.24 g, 1.0 mmol) and N,N-dimethylbarbituric acid (0.38 g, 2.4 mmol) in CH2Cl2 (5 mL). The solution is stirred for 15 minutes at room temperature after which {6-(tert-butyl-dimethyl-silanyloxymethyl)-3-[(isoquinoline-1-carbonyl)amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid, 22, (0.15 g) is added as a solution in CH2Cl2/DMF (2 mL, 1:1), followed by HOBt (0.126 g, 0.93 mmol) and EDCl (0.18 g, 0.93 mmol). The solution is stirred for 5 hours, diluted with EtOAc, washed with saturated NaHCO3 and brine, dried (Na2SO4), and concentrated in vacuo. The resulting residue us purified over silica (EtOAc/hexane) to afford the desired compound.

reactant | (2-Ethoxy-5-oxo-furan-3-yl)-carbamic acid allyl ester | 1.0 mmol, 0.24 g | C(C=C)OC(NC=1C(OC(C1)=O)OCC)=O | C10H13NO5
reactant | {6-(tert-butyl-dimethyl-silanyloxymethyl)-3-[(isoquinoline-1-carbonyl)amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid | C(C)(C)(C)[SiH2]OC(C1=CCC(C(N(C1)CC(=O)O)=O)NC(=O)C1=NC=CC2=CC=CC=C12)(C)C | C25H33N3O5Si
reactant | HOBt | 0.93 mmol, 0.126 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.93 mmol, 0.18 g | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 DMF | 2 mL | C(Cl)Cl.CN(C)C=O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | isoquinoline-1-carboxylic acid {6-(hydroxymethyl)-1-[(2-ethoxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-methyl]-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl}-amide | OCC1=CCC(C(N(C1)CC(NC1C(OC(C1)=O)OCC)=O)=O)NC(=O)C1=NC=CC2=CC=CC=C12 | C25H28N4O7
